US03984398
In the same manner, by acting butyl bromide in the presence of sodium ethylate, starting from 1-phenyl 8-chloro 1,2,4,5-tetrahydro 2,4 -dioxo 3H-1,5-benzodiazepine, there is obtained 1-phenyl 5-butyl 8-chloro 1,2,4,5-tetrahydro 2,4-dioxo-3H-1,5-benzodiazepine (R1 = H, R2 = Cl, R3 = C4H9, R4 = C6H5) melting at 159°- 161° C., upon recrystallisation in 50% ethanol.

reactant | butyl bromide | C(CCC)Br | C4H9Br
reactant | sodium ethylate | CC[O-].[Na+]
reactant | 1-phenyl 8-chloro 1,2,4,5-tetrahydro 2,4 -dioxo 3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1C(CC(NC2=C1C=C(C=C2)Cl)=O)=O | C15H11ClN2O2
product | 1-phenyl 5-butyl 8-chloro 1,2,4,5-tetrahydro 2,4-dioxo-3H-1,5-benzodiazepine | C1(=CC=CC=C1)N1C(CC(N(C2=C1C=C(C=C2)Cl)CCCC)=O)=O | C19H19ClN2O2
